Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
ciprofloxacin
 
Attending: ___
 
Chief Complaint:
Dysarthria, facial droop, L arm
weakness/ataxia. 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old R-handed woman with hx of atrial
fibrillation previously on Coumadin, recent fall with LLE
hematoma requiring transfusion, CKD stage 3, NHL s/p chemo, HTN
who presents with dysarthria, facial droop, L arm weakness now
improved, sometime before 6pm today. 

Pt is unable to give an exact time for her symptom onset.
However, she had eaten some dinner today when her family arrived
to visit her at 6pm. They reported that when they saw her, she
had left facial droop, her speech was slurred and when she took 
a
drink of tea, it "went down the wrong way" and she 
coughed+gagged
and vomited up some of her dinner. Her daughter reports that 
when
they saw her at 6pm her left arm was "flaccid" but that this
improved gradually since that time. She presented to ___ ___ where ___ was reported as 4 by one provider for
dysarthria, facial droop, and ataxia of LUE and weakness of LUE
and 2 via teleneurology for only dysarthria, facial droop. 

Earlier in the day she had a R frontal headache at 2:30pm that
improved with Tylenol and yesterday, ___ reported that pt had 
some
slurred speech that resolved before her family saw her at 
dinner.

At the time of interview, pt notes that her speech is not normal
and it is harder to move her left arm with accuracy. 

Reportedly 12 days ago per family, (but hospitalization was only
10d ago) she fell and developed large left hip/leg hematoma
requiring transfusion - she was admitted from ___ and INR
was 2.6 at that time. Coumadin was stopped due to bleeding and
planned to resume in 2 weeks. She did not have any fractures, 
but
hospital stay was complicated by ___ to Cr 1.9 -- decreased to
1.6 at time of dc and last Cr check 1.4 at her rehab facility;
Low BPs causing DC of home torsemide. She was DCed to rehab 
after
this and has been unable to ambulate but slowly working towards
this at rehab. 

On neuro ROS, she has been unable to walk since her fall. The pt
denies headache, loss of vision, blurred vision, diplopia,
dysphagia, vertigo. Denies difficulties producing or
comprehending speech.  Denies numbness, parasthesiae. No bowel 
or
bladder incontinence or retention. No reported LOC or 
involuntary
movements. 

On general review of systems, the pt denies recent fever or
chills. Denies cough, shortness of breath.  Denies chest pain or
tightness.  Denies nausea, vomiting.  
 
Past Medical History:
- R ptosis - unclear etiology but present fr some time - R eye
s/p cataract surgery and previously had surgery on her right
eyebrow. 
- Atrial fibrillation previously on Coumadin as above
- CKD stage 3
- Hx NHL sp chemo
- HTN
- Gout
- dCHF - had one episode of CHF in setting of pneumonia
- b/l ___ edema
- s/p R femoral rod 
 
Social History:
___
Family History:
Brother had stroke in ___. Otherwise no hx of stroke or
neurologic disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: 97.9F HR 70 134/74 RR 18 94% on RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally anteriorly without R/R/W
Cardiac: Irregularly irregular.
Abdomen: Soft, NT/ND. 
Extremities: b/l ___ edema primarily at ankles. 
Skin: Large ecchymosis over left posterolateral thigh and 
buttock

Neurologic:

-Mental Status: Speech is dysarthric.
Alert, oriented x 3. Able to relate history without difficulty.
Attentive during interview. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty.  Able to
follow both midline and appendicular commands as well as two 
step
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2 to 1.5mm and brisk. EOMI without
nystagmus. VFF to confrontation. R ptosis - chronic. 
V: Facial sensation intact to light touch.
VII: L facial droop and asymmetry with activation.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Pronation of L arm but no
drift. 
No adventitious movements, such as tremor, noted. 
  Delt Bic Tri WrE  FE  IP Quad Ham TA ___
L  4+*  ___    ___   4+  5     5     5   5
R  5    ___    5   4+  5   4+  5     5     5   5
*Likely arthritis and pain limited. 

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense throughout. No extinction to DSS. Mild decreased 


-DTRs:
  ___ Pat Ach
L  1   1    -   0
R  1   1    -   0
Plantar response was flexor bilaterally. No ankle clonus. Unable
to obtain patellars - s/p R femoral rod extending into knee per
family. 

-Coordination: Mild ataxia w/ slowed movement with LUE on
finger/nose/finger. Unable to perform HKS due to bsl hip and leg
IP b/l weakness. 

-Gait: Unable to test - Cannot ambulate since fall - only has
stood and walked limited once with ___ in the last week. 
==============================================================
DISCHARGE PHYSICAL EXAM:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. 
Pulmonary: Lungs CTA bilaterally anteriorly without w/r/r
Cardiac: Irregularly irregular, no m/r/g.
Abdomen: Soft, NT/ND. 
Extremities: 2+ minimally pitting edema symmetrically primarily 
at ankles. 
Skin: Large ecchymosis over left posterolateral thigh and 
buttock

Neurologic:

-Mental Status: Speech is dysarthric.
Alert, oriented x 3. Able to relate history without difficulty.
Attentive during interview. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty.  Able to
follow both midline and appendicular commands as well as two 
step
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 1.5mm and brisk. EOMI without
nystagmus. VFF to confrontation. R ptosis - chronic. 
V: Facial sensation intact to light touch.
VII: L facial droop and asymmetry with activation.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically. lingual and guttural 
dysarthria present <>
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Pronation of L arm but no
drift. 
No adventitious movements, such as tremor, noted. 
  Delt Bic Tri WrE  FE  IP Quad Ham TA ___
L  4+   ___    ___   4+  5     5     5   5
R  5    ___    5   4+  5   4+  5     5     5   5 

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense throughout. No extinction to DSS. 

-DTRs:
  ___ Pat Ach
L  1   1    1   0
R  1   1    1   0
Plantar response was flexor bilaterally. No ankle clonus. 

-Coordination: No dysmetria on FNF. RAM slowed but rhythmic. 
Unable to perform HKS due to bsl hip and leg IP b/l weakness. 

-Gait: Unable to test - Cannot ambulate since fall - only has
stood and walked limited once with ___ in the last week.

 
Pertinent Results:
Laboratory Data:
At ___: 
Lactate:1.3 

139  105  35  100   AGap=16 
4.7  23  1.4  

7.1  9.8  230  
     31.3  
 N:71.4 L:14.5 M:9.3 E:3.5 Bas:0.6 ___: 0.7 Absneut: 5.07
Abslymp: 1.03 Absmono: 0.66 Abseos: 0.25 Absbaso: 0.04  

___: 12.6  PTT: 30.5  INR: 1.2  

Urinalysis ___: 27 RBC, 182 WBC, many bacteria, 1 epi
 
================
___ OHS
7.3  10.6  238
     33.9

137  101  37  126
4.6  21  1.45 
ALT 11 AST 18 AP 85 Tbili 1.5, Alb 3.6  Tprotein 6.7

Ca 9
___ and ___ at rehab
6.3  9.4   219
     28.9

INR 1.1

138  105  44  92
4.8  27  1.4

EKG: EMS - NSR; ___ - Afib 
No ST changes. 

Radiologic Data:
CXR at ___- Normal
NCHCT at ___ - No bleed or early acute infarct. 

CTA H and N - + Intracranial athero b/l. No flow limiting 
stenosis on my read. 

HEAD: No evidence of intracranial hemorrhage. Mild subcortical 
white matter
hypodensities, nonspecific but likely sequela of chronic small 
vessel disease.

CTA: No flow limiting stenosis in the cervical or intracranial 
vessels. No evidence of aneurysm greater than 3 mm or 
dissection. Patulous esophagus. 
Background mosaic attenuation of the lung apices.

MRI brain: 1.  Study is mildly degraded by motion. 
2. Acute to subacute right MCA distribution corona radiata 
punctate infarcts 
without evidence of hemorrhagic transformation. 
3. Right frontal extra-axial mass measuring up to 9 mm, which is 
nonspecific, 
and which may represent meningioma.  If clinically indicated, 
consider 
contrast enhanced brain MRI for further evaluation. 
4. Probable Tornwaldt cyst. 

 
Brief Hospital Course:
Ms. ___ was transferred to the stroke service on ___ from 
the ___, where she presented from her rehabilitation 
facility with dysarthria, left lower facial droop and left arm 
weakness. 

CTA was obtained at admission, which showed a cutoff in the R M2 
segment-superior division with distal reconstitution. An MRI was 
obtained on the morning of ___, which showed small punctate 
infarcts in the MCA distribution of the corona radiata, and she 
was monitored on telemetry. She was restarted on warfarin on 
___. 

Her home lisinopril was held for permissive HTN, and her beta 
blocker dose was halved. She remained hemodynamically stable 
with vital signs within normal limits throughout her admission. 
These were both returned to prior home doses on the day of 
discharge. 

Her neurologic exam improved throughout her admission, with 
significant improvements in both her dysarthria and facial 
droop. 

___ consults were obtained which recommended ___ 
rehabilitation, though Ms. ___ and family preferred that she 
return to SNF, as they were worried that three hours per day of 
therapy might be too much activity for her. SLP recommended 
ground diet with nectar thick liquids. 

Routine admission urinalysis was indicative of urinary tract 
infection and she was started on 7 day course of cefpodoxime. 

=
=
=
=
=
=
=
=
=
================================================================

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 45) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: LDl<70]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? () Yes - (x) No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - (x) Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A  

 
Medications on Admission:
1. TraMADol 25 mg PO Q4H:PRN Pain - Moderate 
2. Metoprolol Tartrate 25 mg PO BID 
3. Lisinopril 5 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Colchicine 0.6 mg PO DAILY 
6. Allopurinol ___ mg PO DAILY 
7. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
8. Docusate Sodium 100 mg PO DAILY:PRN constipation 
9. Bisacodyl 10 mg PO DAILY:PRN constipation 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
2. Allopurinol ___ mg PO DAILY 
3. Bisacodyl 10 mg PO DAILY:PRN constipation 
4. Colchicine 0.6 mg PO DAILY 
5. Docusate Sodium 100 mg PO DAILY:PRN constipation 
6. Metoprolol Tartrate 25 mg PO BID 
7. TraMADol 25 mg PO Q4H:PRN Pain - Moderate 
8. Vitamin D 1000 UNIT PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Cefpodoxime Proxetil 200 mg PO Q24H Duration: 7 Days 
11. Milk of Magnesia 30 mL PO Q6H:PRN Constipation 
12. Lisinopril 5 mg PO DAILY 
13. Warfarin 5mg PO ___ 2.5mg 
PO ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Small punctate infarcts in the MCA distribution of the right 
corona radiata
Acute Ischemic Stroke

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  
You were hospitalized due to symptoms of <> resulting from an 
ACUTE ISCHEMIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
atrial fibrillation
high blood pressure

We are changing your medications as follows:  We restarted your 
warfarin. 
 
Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  

Sincerely, 
Your ___ Neurology Team

 
Followup Instructions:
___